US07713994B2
Allyl-[1-(4-bromo-phenyl)-but-3-enyl]-amine
Allyl-(4-bromo-benzylidene)-amine (1.13 g, 5.0 mmol) is dissolved in THF (15 mL) and the mixture is cooled to 0° C. with an ice bath. Allyl magnesium bromide (6.0 mL, 1.0 M in ethyl ether, 6.0 mmol) is added. The resulting mixture is stirred at 0° C. for 1 hour and warmed to room temperature followed by reaction quenching. EtOAc and water were added and the EtOAc layer is washed with brine and dried. After removal of EtOAc, the product (1.0 g, 75%) is obtained. MS (ESI): 266, 268 (M+1)+1.

reactant | Allyl-(4-bromo-benzylidene)-amine | 5.0 mmol, 1.13 g | C(C=C)N=CC1=CC=C(C=C1)Br | C10H10BrN
reactant | Allyl magnesium bromide | 6.0 mmol, 1.0 M, 6.0 mL | C(C=C)[Mg]Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Allyl-[1-(4-bromo-phenyl)-but-3-enyl]-amine | 1.0 g, 75% | C(C=C)NC(CC=C)C1=CC=C(C=C1)Br | C13H16BrN
